US08486979B2
5-(3-bromophenyl)-3-(pyridin-3-yl)-1,2,4-oxadiazole
The title compound was prepared according to the procedure of Example 1 using N′-hydroxynicotinimidamide (Aldrich) and 3-bromobenzoyl chloride (Aldrich). 1H NMR (300 MHz, DMSO-d6) δ 7.60-7.71 (m, 2 H), 7.98 (ddd, J=8.1, 2.0, 1.0 Hz, 1 H), 8.22 (ddd, J=7.4, 1.6, 1.3 Hz, 1 H), 8.35 (t, J=1.8 Hz, 1 H), 8.46 (dt, J=7.9, 2.0 Hz, 1 H), 8.83 (dd, J=4.8, 1.6 Hz, 1 H), 9.27 (dd, J=2.4, 0.8 Hz, 1 H) ppm; MS (DCI/NH3) m/z 302 (M+H)+, 304 (M+H)+.

reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | 3-bromobenzoyl chloride | BrC=1C=C(C(=O)Cl)C=CC1 | C7H4BrClO
reactant | NH3 | N | H3N
product | 5-(3-bromophenyl)-3-(pyridin-3-yl)-1,2,4-oxadiazole | BrC=1C=C(C=CC1)C1=NC(=NO1)C=1C=NC=CC1 | C13H8BrN3O
